US07629363B2
Step 2—Preparation of −1-(4-bromo-2-methylphenyl)-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one
1-(4-bromo-2-methylphenyl)-4-hydroxy-6-methylpyridin-2(1H)-one (7.35 g, 25.0 mmol) was dissolved in DMF (15 mL) and stirred with potassium carbonate (4.14 g, 30.0 mmol) and 2,4 difluorobenzyl bromide (3.21 ml (25.0 mmol) at room temperature for 2 hours. The reaction was worked up by pouring in to 300 ml ice water under continuous stirring. A white precipitate was obtained which was isolated by filtering and further purified by triturating with ether to give 3.06 g (29%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 7.65-7.59 (m, 2H), 7.49 (dd, J=8.45, 2.22 Hz, 1H), 7.31 (dt, J=9.79, 2.22 Hz, 1H), 7.16-7.08 (m, 2H), 6.05 (d, J=2.58 Hz, 1H), 5.93 (d, J=2.66 Hz, 1H), 5.08 (s, 2H), 1.93 (s, 3H), 1.77 (s, 3H). ES-HRMS m/z 420.0390 (M+H calcd for C20H17BrF2NO2, requires 420.0411).

reactant | 1-(4-bromo-2-methylphenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 25.0 mmol, 7.35 g | BrC1=CC(=C(C=C1)N1C(C=C(C=C1C)O)=O)C | C13H12BrNO2
reactant | potassium carbonate | 30.0 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4 difluorobenzyl bromide | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(4-bromo-2-methylphenyl)-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 3.06 g, 29% | BrC1=CC(=C(C=C1)N1C(C=C(C=C1C)OCC1=C(C=C(C=C1)F)F)=O)C | C20H16BrF2NO2
